US06294531B1
a) 5-Amino-2-fluorobenzonitrile
A mixture of 5-nitro-2-fluorobenzonitrile (10 g, 60.2 mmol), Fe powder (17 g, 0.3 mol), and NH4Cl (1.7 g, 30 mmol) in EtOH/H2O (100 mL, 9:1) was heated at reflux in 2 h. The mixture was filtered at hot. The filtrate was concentrated, taken up in H2O, stirred, filtered air-dried to obtain the title solid as a tan solid, (5.0 g, 71%). 1H NMR (400 MHz, DMSO-d6): d 5.54 (s, 2H), 6.85 (m, 2H), 7.16 (t, J=8.1 Hz, 1H).

reactant | 5-nitro-2-fluorobenzonitrile | 60.2 mmol, 10 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)F | C7H3FN2O2
reactant | NH4Cl | 30 mmol, 1.7 g | [NH4+].[Cl-]
solvent | EtOH H2O | 100 mL | CCO.O
catalyst | Fe | 0.3 mol, 17 g | [Fe] | Fe
product | 5-Amino-2-fluorobenzonitrile | 5.0 g, 71% | NC=1C=CC(=C(C#N)C1)F | C7H5FN2
